US05977178
((2R)-2-(tert-butoxycarbonylmethylamino)-3-phenylpropoxyl)-acetic acid ethyl ester (0.60 g, 1.71 mmol) was dissolved in dioxane (5 mL). A solution of lithium hydroxide (0.05g, 2.20 mmol) in water (2 mL) was added. The solution was stirred at room temperature for 56 hours. Ethyl acetate (10 mL) and water (2 mL) were added. The phases were separated. The aqueous phase was extracted with ethyl acetate (10 mL). The combined organic layers were extracted with 1 N sodium hydroxide solution (20 mL). The combined aqueous phases were acidified with a 1M sodium hydrogensulfate solution (pH 2) and extracted with ethyl acetate (2×20 mL). These ethyl acetate layers were combined and dried over magnesium sulfate. The solvent was removed in vacuum to give 0.38 g of crude ((2R)-2-(tert-butoxycarbonylmethylamino)-3-phenylpropoxy) acetic acid, which was used for the following steps.

reactant | ((2R)-2-(tert-butoxycarbonylmethylamino)-3-phenylpropoxyl)-acetic acid ethyl ester | 1.71 mmol, 0.60 g | C(C)OC(COC[C@@H](CC1=CC=CC=C1)NCC(=O)OC(C)(C)C)=O | C19H29NO5
reactant | lithium hydroxide | 2.20 mmol, 0.05g | [OH-].[Li+]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | ((2R)-2-(tert-butoxycarbonylmethylamino)-3-phenylpropoxy) acetic acid | 0.38 g | C(C)(C)(C)OC(=O)CN[C@@H](COCC(=O)O)CC1=CC=CC=C1 | C17H25NO5
